US07973040B2
Step 1: [(1E)-hepta-1,6-dien-1-yloxy](trimethyl)silane
A solution (0.5 M) of butenyl magnesium bromide in THF (1.4 eq) was treated at −78° C. with Cu(I)Br.SMe2 (0.05 eq) and HMPA (2.4 eq). The mixture was stirred for 10 min, then a solution (1 M) of acrolein (1 eq) and TMSCl (2 eq) in THF was added over 1 h such that the internal temperature remained below −68° C. The resulting mixture was stirred at −78° C. for 2 h, then treated with excess Et3N and diluted with hexane. After reaching room temperature, the mixture was treated with a small portion of H2O and filtered through CELITE. The filtrate was washed 10 times with H2O and then with brine. The organic layer was dried, and the volatiles were removed to give a residue that was distilled under reduced pressure (20 mbar). The fraction collected at 80-86° C. contained the title compound (58%) as a colorless liquid. 1H NMR (400 MHz, CDCl3) δ 6.19 (d, J=11.6 Hz, 1H), 5.85-5.75 (m, 1H), 5.02-4.92 (m, 3H), 2.08-2.02 (m, 2H), 1.94-1.88 (m, 2H), 1.46-1.38 (m, 2H), 0.18 (s, 9H).

reactant | butenyl magnesium bromide | 0.5 M | C(=CCC)[Mg]Br
reactant | SMe2 | 0.05 eq | S(C)C | C2H6S
reactant | HMPA | 2.4 eq | CN(C)P(=O)(N(C)C)N(C)C | C6H18N3OP
reactant | acrolein | 1 M, 1 eq | C(=O)C=C | C3H4O
reactant | TMSCl | 2 eq | C[Si](C)(C)Cl | C3H9ClSi
solvent | THF | C1CCOC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | THF | 1.4 eq | C1CCOC1 | C4H8O
solvent | H2O | O | H2O
solvent | Et3N | CCN(CC)CC | C6H15N
product | [(1E)-hepta-1,6-dien-1-yloxy](trimethyl)silane | C(=C\CCCC=C)/O[Si](C)(C)C | C10H20OSi
